US03969527
B. 3-[4-[2-(Diethylamino)ethoxy]phenyl]-2,3,3a,4-tetrahydro-2-methyl-indeno[1,2-c]pyrazole
A solution of 26.4 g (0.08 mole) of 2-[[4-[2-(diethylamino)ethoxy]phenyl]methylene]-2,3-dihydro-1H-inden-1-one in 250 ml of methanol containing 3.7 g (0.08 mole) of methyl hydrazine is heated at reflux for 4 hours. After cooling, 9.1 g starting material is recovered.

reactant | 2-[[4-[2-(diethylamino)ethoxy]phenyl]methylene]-2,3-dihydro-1H-inden-1-one | 0.08 mole, 26.4 g | C(C)N(CCOC1=CC=C(C=C1)C=C1C(C2=CC=CC=C2C1)=O)CC | C22H25NO2
reactant | methanol | 0.08 mole, 250 ml, 3.7 g | CO | CH4O
reactant | methyl hydrazine | CNN | CH6N2
product | 3-[4-[2-(Diethylamino)ethoxy]phenyl]-2,3,3a,4-tetrahydro-2-methyl-indeno[1,2-c]pyrazole | C(C)N(CCOC1=CC=C(C=C1)C1C2C(=NN1C)C1=CC=CC=C1C2)CC | C23H29N3O
